US07655686B2
2-[1-(4-hydroxy-but-2-enyl)-6-oxo-1,7-diaza-spiro[4.4]non-7-yl]-propionic acid methyl ester
82 mg (0.25 mmol) (S,S)-7-(1-methoxycarbonyl-ethyl)-6-oxo-1,7-diaza-spiro[4.4]nonane-1-carboxylic acid tert-butyl ester are stirred at room temperature for three hours in 1 mL of a 4N HCl dioxane solution, evaporated, then taken up in toluene and evaporated again (twice). The residue is taken up in 2 mL dichloromethane and stirred at room temperature for 65 hours in the presence of 74 mg (0.2 mmol) tetrabutylammonium iodide, 0.035 mL (0.2 mmol) diisopropylethylamine and 30 mg (0.2 mmol) 4-bromo-but-2-en-1-ol. The reaction mixture is extracted with EtOAc and saturated aqueous sodium bicarbonate, the combined organic phases washed with brine, evaporated to dryness and the residue column chromatographed (silica gel, EtOAc/EtOH 9:1) to yield the desired product as a thick liquid.

reactant | (S,S)-7-(1-methoxycarbonyl-ethyl)-6-oxo-1,7-diaza-spiro[4.4]nonane-1-carboxylic acid tert-butyl ester | 0.25 mmol, 82 mg | C(C)(C)(C)OC(=O)N1CCC[C@]12C(N(CC2)[C@@H](C)C(=O)OC)=O | C16H26N2O5
reactant | HCl dioxane | 4N | O1CCOCC1.Cl
reactant | diisopropylethylamine | 0.2 mmol, 0.035 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromo-but-2-en-1-ol | 0.2 mmol, 30 mg | BrCC=CCO | C4H7BrO
catalyst | tetrabutylammonium iodide | 0.2 mmol, 74 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-[1-(4-hydroxy-but-2-enyl)-6-oxo-1,7-diaza-spiro[4.4]non-7-yl]-propionic acid methyl ester | COC(C(C)N1C(C2(CCCN2CC=CCO)CC1)=O)=O | C15H24N2O4
